US04544400
N-methylcarbonyl 3-fluoroaniline (5 g, 32.0 mmol) is dissolved in 25 ml of conc. sulfuric acid and is cooled to 0°. A mixture of 90% nitric acid (2.5 ml) in conc. sulfuric acid (25 ml) is added dropwise over a period of about 1 hour, with the temperature maintained at 0°. The reaction is allowed to warm to RT and is stirred at RT for 3 hours. The reaction is then carefully poured into ice. The resulting solid is washed several times with 10% ethyl acetate/hexane, and the combined organic extracts are stripped to give N-methylcarbonyl 2-nitro-5-fluoroaniline.

reactant | N-methylcarbonyl 3-fluoroaniline | 32.0 mmol, 5 g | CC(=O)NC1=CC(=CC=C1)F | C8H8FNO
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | N-methylcarbonyl 2-nitro-5-fluoroaniline | CC(=O)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7FN2O3
